US05091393
A solution of 5.8 g (25 mmol) of 3,6-dimethyl-5-(4-methoxyphenyl)-3,4,5,6-tetrahydro-2-pyridone in 60 ml of dry tetrahydrofuran was added dropwise under nitrogen to a suspension of 1.63 g of lithium aluminium hydride (63 mmol) in 25 ml of dry tetrahydrofuran. After the reaction mixture had been refluxed for 2 hours, it was cooled and, while cooling with ice, 1.6 ml of water in 10 ml of tetrahydrofuran, 3.2 ml of 2N sodium hydroxide and 3.2 ml of water were successively added dropwise. After refluxing for a short periode of time the resulting precipitate was filtered off and rinsed thoroughly with warm tetrahydrofuran; the filtrate was evaporated under reduced pressure. The resulting crude product was purified by means of flash chromatography over 100 g of silicagel (Merck, grain size 0.040-0.063 mm) using a mixture of ethyl acetate, methanol and concentrated ammonia (93:6.5:0.5) as an eluent. After combining and evaporating the desired fractions, totally 3.6 g (65%) of 2,5-dimethyl-3-(4-methoxyphenyl)piperidine were obtained.

reactant | 3,6-dimethyl-5-(4-methoxyphenyl)-3,4,5,6-tetrahydro-2-pyridone | 25 mmol, 5.8 g | CC1C(NC(C(C1)C1=CC=C(C=C1)OC)C)=O | C14H19NO2
reactant | lithium aluminium hydride | 63 mmol, 1.63 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N, 3.2 ml | [OH-].[Na+]
solvent | water | 3.2 ml | O | H2O
solvent | water | 1.6 ml | O | H2O
product | 2,5-dimethyl-3-(4-methoxyphenyl)piperidine | 3.6 g, 65% | CC1NCC(CC1C1=CC=C(C=C1)OC)C | C14H21NO
